US06617346B1
Hydrogen chloride gas was passed through a solution of 2-isopropoxy-4-methoxy-benzonitrile (11.5 g, 60.14 mmol) in anhydrous ethanol (250 mL) cooled to −10° C. After 45 min, hydrogen chloride gas was stopped and the reaction mixture was stirred at room temperature in a closed reaction vessel for 2 weeks. The reaction vessel was cooled to 0° C. before the stopper was removed. Argon gas was passed through the solution to remove excess hydrogen chloride gas. The solvent was evaporated and the residue was triturated in diethyl ether (100 mL) to afford ethyl 2-isopropoxy-4-methoxy-benzimidate hydrochloride (16.3 g, 99%). It was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-isopropoxy-4-methoxy-benzonitrile | 60.14 mmol, 11.5 g | C(C)(C)OC1=C(C#N)C=CC(=C1)OC | C11H13NO2
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | ethyl 2-isopropoxy-4-methoxy-benzimidate hydrochloride | 16.3 g, 99% | Cl.C(C)(C)OC1=C(C(OCC)=N)C=CC(=C1)OC | InChI=1S/C13H19NO3.ClH/c1-5-16-13(14)11-7-6-10(15-4)8-12(11)17-9(2)3;/h6-9,14H,5H2,1-4H3;1H
